US07220862B2
Benzyl (R)-1-(methoxycarbonyl)-2-(7-methyl-1H-benzo[d][1,2,3]triazol-5-yl)ethylcarbamate
To a solution of benzyl (R)-1-(methoxycarbonyl)-2-(3,4-diamino-5-methylphenyl)ethylcarbamate (250 mg, 0.58 mmol) in acetic acid (6 mL) and water (10 mL) was added a solution of sodium nitrite (40 mg, 0.58 mmol) in water (1 mL), dropwise over several minutes at room temperature. The resulting mixture was stirred at room temperature for 30 min, then cooled to 0° C. A mixture of ammonium hydroxide and water (1:1, 15 mL) was added to adjust pH to 11. The mixture was extracted with ethyl acetate twice. The organic layers washed with brine and dried over sodium sulfate. After filtration, solvents were removed in vacuo and the residue was purified by flash column chromatography (1:1 ethyl acetate/hexanes) on silica gel to afford the title compound as a tan solid (155 mg, 72% yield). 1H-NMR (CDCl3, 300 MHz) δ 7.34 (s, 1H), 7.32–7.28 (m, 6H), 6.93 (s, 1H), 5.40 (d, J=8.1 Hz, 1H), 5.13–5.02 (m, 2H), 4.76–4.69 (m, 1H), 3.73 (s, 3H), 3.28 (dd, J=13.9, 5.5 Hz, 1H), 3.16 (dd, J=13.9, 6.2 Hz, 1H), 2.64 (s, 3H). LC/MS: tR=2.30 min, 369 (MH)+.

reactant | benzyl (R)-1-(methoxycarbonyl)-2-(3,4-diamino-5-methylphenyl)ethylcarbamate | 0.58 mmol, 250 mg | COC(=O)[C@@H](CC1=CC(=C(C(=C1)C)N)N)NC(OCC1=CC=CC=C1)=O | C19H23N3O4
reactant | sodium nitrite | 0.58 mmol, 40 mg | N(=O)[O-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
solvent | water | 1 mL | O | H2O
solvent | water | 15 mL | O | H2O
product | Benzyl (R)-1-(methoxycarbonyl)-2-(7-methyl-1H-benzo[d][1,2,3]triazol-5-yl)ethylcarbamate | 155 mg, 72% yield | COC(=O)[C@@H](CC1=CC2=C(NN=N2)C(=C1)C)NC(OCC1=CC=CC=C1)=O | C19H20N4O4
